US05866576
This example illustrates a synthesis of 7-(11,10-Oxidondecyl)-1-methyl-2,4-dioxotetrahydropteridine (inventive compound no. 1426). 1-Methyl-4,5-diaminouracil (13.6 g; 59.4 mole) was suspended in water (150 mL) and converted to its hydrochloride by drop-wise addition of concentrated hydrochloric acid unitl the solution is strongly acidic. Glyoxan sodiumbisulphite (20.4 g; 71.8 mmol) was then added and the reaction mixture refluxed for 30 minutes. The reaction mixture was cooled to room temperature and the precipitated 1-methyl-2,4-dioxotetrahydropteridine isolated by filteration, yielding 6.5 g (62%). Sodium hydride (95%,) (0.575 g, 24 mmol) was added to a solution of 1-methyl-2,4-dioxotetrahydropteridine (3.56 g, 20 mmol) in dimethylsulfoxide (100 mL). After 20 minutes of stirring, 1-bromoundec-10-ene (4.66 g, 20 mmol) was added and stirred for 12 hours at room temperature. The reaction mixture was then poured into a separatory funnel containing water (300 mL) and extracted with ethyl acetate (5×100 mL). The organic extracts were combined, washed with water (100 mL) and brine (100 mL), dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The crude product obtained was further purified by flash chromatography over silica gel using 50% hexane/ethyl acetate eluant to yield 5 g (94% yield) of 3-(10-undecenyl)-1-methyl-2,4-dioxotetrahydropteridine (inventive compound no. 1421). A solution of 3-(10-undecenyl)-1-methyl-2,4-dioxotetrahydropteridine (3.3 g, 10 mmol) and m-chloroperoxybenzoic acid (5.13 g; 15 mmol) (50% by wt) in dichloromethane (50 mL) was stirred for 5 hours. The reaction mixture was diluted with 40 mL of dichloromethane and washed successively with 20% aqueous sodium sulphite solution (20 mL), saturated sodium bicarbonate solution (20 mL), water (30 mL) and brine solutions (30 mL). The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The crude product obtained was further purified by flash chromatography over silica gel using 40% petroleum ether/ethyl acetate eluant to yield 2.61 g (75% yield) of 7-(11,10-Oxidondecyl)-1-methyl-2,4-dioxotetrahydropteridine.

reactant | Sodium hydride | 24 mmol, 0.575 g | [H-].[Na+]
reactant | 1-methyl-2,4-dioxotetrahydropteridine | 20 mmol, 3.56 g | CN1C(NC(C2NCCN=C12)=O)=O | C7H10N4O2
reactant | 1-bromoundec-10-ene | 20 mmol, 4.66 g | BrCCCCCCCCCC=C | C11H21Br
reactant | water | 300 mL | O | H2O
solvent | dimethylsulfoxide | 100 mL | CS(=O)C | C2H6OS
product | 3-(10-undecenyl)-1-methyl-2,4-dioxotetrahydropteridine | 5 g, 94% yield | C(CCCCCCCCC=C)N1C(N(C2=NCCNC2C1=O)C)=O | C18H30N4O2
